US04440941
N-(2-Mercapto-3-methylbenzoyl)-N-cyclopentylglycine
To a chilled solution of methanolic ammonia (30 ml) was added 2.6 g (0.0078 mole) of N-(2-acetylthio-3-methylbenzoyl)-N-cyclopentylglycine. The reaction was covered with a nitrogen atmosphere and stirred three hours while warming slowly from 0° C. to room temperature.

reactant | N-(2-acetylthio-3-methylbenzoyl)-N-cyclopentylglycine | 0.0078 mole, 2.6 g | C(C)(=O)SC1=C(C(=O)N(CC(=O)O)C2CCCC2)C=CC=C1C | C17H21NO4S
solvent | ammonia | 30 ml | N | H3N
product | N-(2-Mercapto-3-methylbenzoyl)-N-cyclopentylglycine | SC1=C(C(=O)N(CC(=O)O)C2CCCC2)C=CC=C1C | C15H19NO3S
